US05102457
2-(Benzylthio)benzothiazole
A solution of 28.1 g (0.2 mol) of benzyl chloride in 50 ml of ethanol is added slowly, with stirring, to a solution of 33.4 g (0.2 mol) of 2-mercaptobenzothiazole and 8 g (0.2 mol) of NaOH in 150 ml of ethanol and 25 ml of water. The resulting solution is refluxed for 2.5 h. After cooling, it is filtered and evaporated to leave 35.1 g of a yellowish solid melting at 39°-40° C. 1H NMR (CDCl3): δ4.41 (2H), δ6.98-7.8 (9H) ppm.

reactant | benzyl chloride | 0.2 mol, 28.1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 2-mercaptobenzothiazole | 0.2 mol, 33.4 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | NaOH | 0.2 mol, 8 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 2-(Benzylthio)benzothiazole | 35.1 g | C(C1=CC=CC=C1)SC=1SC2=C(N1)C=CC=C2 | C14H11NS2
